US08648066B2
Phenylmethyl[(1S)-1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}ethyl]carbamate.
Prepared according to the method of example 5 by using phenylmethyl{(1S)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate (reagent preparation 19) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.56 (br, 1H), 8.36 (br, 1H), 8.09 (br, 1H), 7.60 (s, 1H), 7.51 (d, 1H), 7.42 to 7.25 (m, 5H), 7.10 (d, 1H), 5.17 to 5.03 (dd, 2H), 4.73 (s, 2H), 4.61 (m, 1H), 4.37 (m, 1H), 3.95 (m, 1H), 2.79 (t, 2H), 2.48 (s, 2H), 1.72 to 1.56 (m, 5H), 0.90 (s, 6H); MS (EI) for C35H37N7O3: 604 (MH+).

reactant | phenylmethyl{(1S)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate | C1(=CC=CC=C1)COC(N(COCC[Si](C)(C)C)[C@@H](C)C1=NC=2C(=NC=C(C2)Br)N1COCC[Si](C)(C)C)=O | C28H43BrN4O4Si2
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | Phenylmethyl[(1S)-1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}ethyl]carbamate | C1(=CC=CC=C1)COC(N[C@@H](C)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC=NC=4CCC(CC34)(C)C)C2)N1)=O | C35H37N7O3
